US06969711B2
Acetyl nitrate obtained by mixing acetyl anhydride (1.35 g, 13.3 mmol) with fuming nitric acid (13.3 mmol) at 0° C. was dropped into a solution of 2-tert-butylphenol (2.00 g, 13.3 mmol) in acetonitrile (30 ml) at −20° C. followed by stirring for 5 minutes. The reaction solution was diluted with water and extracted with ether. The organic layer was washed with water and a saturated sodium chloride solution successively and dried over anhydrous magnesium sulfate and the solvent was evaporated therefrom. The residue was purified by a silica gel column chromatography (60 g of silica gel; developing solvent, hexane:acetone=3:1) to provide 600 mg (yield 23%) of 2-tert-butyl-6-nitrophenol as yellow crystals.

reactant | nitric acid | 13.3 mmol | [N+](=O)(O)[O-] | HNO3
reactant | 2-tert-butylphenol | 13.3 mmol, 2.00 g | C(C)(C)(C)C1=C(C=CC=C1)O | C10H14O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-tert-butyl-6-nitrophenol | 600 mg, yield 23% | C(C)(C)(C)C1=C(C(=CC=C1)[N+](=O)[O-])O | C10H13NO3
